US04740509
At -20° C., 6.29 g of 3-(12-bromo-6-methyl-8α-ergolinyl)-1,1-diethylurea (15 mmol) is dissolved in a mixture of 4.13 g of freshly distilled phosphorus oxychloride (45 mmol) and 50 ml of anhydrous methylene chloride, and the temperature is allowed to rise to +10° C. within 4 hours. The mixture is agitated overnight at room temperature, then for another 2 hours at 40° C., and subsequently the solvent is distilled off under vacuum. The residue is dissolved in 50 ml of anhydrous acetonitrile, cooled to -10° C., combined with 7.2 g of potassium ethylxanthate (45 mmol) and stirred for 20 hours at room temperature. The solvent is extensively distilled off, then the mixture is divided between ethyl acetate and saturated sodium carbonate solution, the organic phase is dried with sodium sulfate, and evaporated. The residue is crystallized from ethyl acetate, thus obtaining 5.03 g (77%) of 3-(12-bromo- 6-methyl-8α-ergolinyl)-1,1-diethylthiourea.

reactant | 3-(12-bromo-6-methyl-8α-ergolinyl)-1,1-diethylurea | 15 mmol, 6.29 g | BrC1=CC=C2NC=C3C[C@H]4N(C[C@H](C[C@@H]4C1=C32)NC(N(CC)CC)=O)C | C20H27BrN4O
reactant | phosphorus oxychloride | 45 mmol | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | potassium ethylxanthate | 45 mmol, 7.2 g | C(C)OC(=S)[S-].[K+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-(12-bromo- 6-methyl-8α-ergolinyl)-1,1-diethylthiourea | 5.03 g, 77% | BrC1=CC=C2NC=C3C[C@H]4N(C[C@H](C[C@@H]4C1=C32)NC(N(CC)CC)=S)C | C20H27BrN4S
